US07786171B2
2-[4-(dimethylamino)phenyl]-N-{4-[(trifluoromethyl)thio]phenyl}acetamide
The product was prepared from 2-(4-(dimethylamino)phenyl)acetic acid (23 mg) and 4-trifluoromethylthioaniline (28 mg) according to Method C: 1H NMR (300 MHz, CDCl3) δ ppm 2.98 (s, 6 H), 3.66 (s, 2 H), 6.72-6.78 (m, 2 H), 7.14-7.19 (m, 2 H), 7.19 (s, 1 H), 7.43-7.51 (m, 2 H), 7.52-7.57 (m, 2 H); MS (ESI-pos) m/z 355.0 (M+H)+.

reactant | 2-(4-(dimethylamino)phenyl)acetic acid | 23 mg | CN(C1=CC=C(C=C1)CC(=O)O)C | C10H13NO2
reactant | 4-trifluoromethylthioaniline | 28 mg | FC(SC1=CC=C(N)C=C1)(F)F | C7H6F3NS
product | 2-[4-(dimethylamino)phenyl]-N-{4-[(trifluoromethyl)thio]phenyl}acetamide | CN(C1=CC=C(C=C1)CC(=O)NC1=CC=C(C=C1)SC(F)(F)F)C | C17H17F3N2OS
